US06509328B1
8-(2-Fluoro-phenyl)-4-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (2′-fluoro-3-{3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example K75) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (75 mg).

reactant | (2′-fluoro-3-{3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1N=C(SC1)N1C=NC(=C1)C)=O)=O | C27H26FN5O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 75 mg | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C=2N=C(SC2)N2C=NC(=C2)C)=O)C1 | C22H16FN5OS
